US08080669B2
Preparation of 4-Oxazol-5-yl-benzonitrile
To a solution of 4-Formyl-benzonitrile (5 g, 38.17 mmol) and tosylmethyl isocyanide (TosMIC) (from Aldrich, 8.33 g, 42 mmol) in MeOH (200 mL) was added K2CO3 (6.85 g, 49.62 mmol) and the mixture was stirred at reflux for 1 h. The solvent was then evaporated and saturated aqueous NaHCO3 was added. The resultant suspension was extracted with dichloromethane (3×100 mL). The combined organic layers were washed with brine (30 mL), dried over anhydrous MgSO4 and concentrated to leave a yellow solid. Trituration with heptane afforded a solid that was collected by filtration and dried under vacuum to give the title compound (6.3 g, 97%). m.p.=140° C.

reactant | 4-Formyl-benzonitrile | 38.17 mmol, 5 g | C(=O)C1=CC=C(C#N)C=C1 | C8H5NO
reactant | tosylmethyl isocyanide | 42 mmol, 8.33 g | S(=O)(=O)(C1=CC=C(C)C=C1)C[N+]#[C-] | C9H9NO2S
reactant | K2CO3 | 49.62 mmol, 6.85 g | C(=O)([O-])[O-].[K+].[K+]
reactant | heptane | CCCCCCC | C7H16
solvent | MeOH | 200 mL | CO | CH4O
product | 4-Oxazol-5-yl-benzonitrile | 6.3 g, 97% | O1C=NC=C1C1=CC=C(C#N)C=C1 | C10H6N2O
